US05395944
c) 7-Benzyl-1-tert-butoxycarbonylaminomethyl-2-oxa-7-aza-bicyclo[3.3.0]octane
2 g of NaOH in 45 ml of water are added to 10.4 g (44.7 mmol) of 1-aminomethyl-7-benzyl-2-oxa-7-azabicyclo[3.3.0]octane in 56 ml of tert-butanol, and 10.2 g (47 mmol) of di-tert-butyl pyrodicarbonate are then added dropwise. The mixture is stirred at room temperature for 15 hours, and then extraction with chloroform, drying over potassium carbonate, concentration and distillation are carried out.

reactant | NaOH | 2 g | [OH-].[Na+]
reactant | 1-aminomethyl-7-benzyl-2-oxa-7-azabicyclo[3.3.0]octane | 44.7 mmol, 10.4 g | NCC12OCCC2CN(C1)CC1=CC=CC=C1 | C14H20N2O
solvent | water | 45 ml | O | H2O
solvent | tert-butanol | 56 ml | C(C)(C)(C)O | C4H10O
product | 7-Benzyl-1-tert-butoxycarbonylaminomethyl-2-oxa-7-aza-bicyclo[3.3.0]octane | C(C1=CC=CC=C1)N1CC2CCOC2(C1)CNC(=O)OC(C)(C)C | C19H28N2O3
